US09102688B2
Pyridine-3-sulfonic acid quinolin-8-ylamide (Example Compound 33)
In a similar fashion using route 14 general procedure 26, pyridine-3-sulfonyl chloride hydrochloride (0.30 g, 1.39 mmol), 8-aminoquinoline (0.20 g, 1.39 mmol) in pyridine (0.56 ml, 6.94 mmol) gave the title compound (70 mg, 18%) after trituration from MeOH.

reactant | pyridine-3-sulfonyl chloride hydrochloride | 1.39 mmol, 0.30 g | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
reactant | 8-aminoquinoline | 1.39 mmol, 0.20 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | pyridine | 6.94 mmol, 0.56 ml | N1=CC=CC=C1 | C5H5N
solvent | MeOH | CO | CH4O
product | Pyridine-3-sulfonic acid quinolin-8-ylamide | 70 mg, 18% | N1=CC=CC2=CC=CC(=C12)NS(=O)(=O)C=1C=NC=CC1 | C14H11N3O2S
